US04904669
A mixture of 17.62 g (0.1 mole) of 3-amino-4-mercapto-quinoline, 15 g (0.11 mole) of phenyl acetic acid and 200 g of polyphosphoric acid is slowly heated to 140° C. under stirring. The reaction mixture is allowed to stand at this temperature for 2 hours, cooled and added to 1000 g of crushed ice under vigorous stirring. The mixture is made alkaline with an aqueous sodium hydroxide solution, extracted three times with 250 ml of chloroform each and the chloroform extract is evaporated. Thus 16.5 g of 2-benzyl-thiazolo[4,5-c]quinoline are obtained, m.p.: 111°-113° C., yield 60%.

reactant | 3-amino-4-mercapto-quinoline | 0.1 mole, 17.62 g | NC=1C=NC2=CC=CC=C2C1S | C9H8N2S
reactant | phenyl acetic acid | 0.11 mole, 15 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-benzyl-thiazolo[4,5-c]quinoline | 16.5 g, yield 60% | C(C1=CC=CC=C1)C=1SC2=C(C=NC=3C=CC=CC23)N1 | C17H12N2S
